US05977105
Prepared according to the method described in Example 33a) from toluene (5 ml), aqueous sodium carbonate (2 M, 1 ml), (2R)-1-(4-bromophenoxy)-4-(3-pyridyl)-2-butanol (0.25 g), ethanol (1 ml), 3-trifluoromethylbenzeneboronic acid (0.161 g) and tetrakis(triphenylphosphine)palladium(0) (22 mg) with heating at reflux for 6 hours. The residue obtained after work-up was purified by column chromatography over silica eluting with ethyl acetate to give (2R)-1-(3'-trifluoromethylbiphenyl-4-yloxy)-4-(3-pyridyl)-2-butanol as a colourless oil (0.180 g). Conversion to the oxalate salt upon treatment with excess saturated ethereal oxalic acid gave the title compound as a hygroscopic gum. (0.150 g)

reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | 2 M, 1 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | (2R)-1-(4-bromophenoxy)-4-(3-pyridyl)-2-butanol | 0.25 g | BrC1=CC=C(OC[C@@H](CCC=2C=NC=CC2)O)C=C1 | C15H16BrNO2
reactant | 3-trifluoromethylbenzeneboronic acid | 0.161 g | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 22 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | (2R)-1-(3'-trifluoromethylbiphenyl-4-yloxy)-4-(3-pyridyl)-2-butanol | 0.180 g | FC(C=1C=C(C=CC1)C1=CC=C(C=C1)OC[C@@H](CCC=1C=NC=CC1)O)(F)F | C22H20F3NO2
